US06232290B1
To a suspension of 4-[2-(4-hydroxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid (4.0 g) in ethanol (50 ml) was added sulfuric acid (1.0 ml) and the mixture was stirred at 80° C. for 9 hours. The reaction mixture was pulverized with water. The precipitate was collected by filtration, washed with water, acetonitrile and diisopropyl ether and dried to give 4-[2-(4-hydroxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester (2.09 g).

reactant | 4-[2-(4-hydroxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid | 4.0 g | OC1=CC=C(C=C1)C1=NN2C(S1)=NC(=C2)C2=CC=C(C(=O)O)C=C2 | C17H11N3O3S
reactant | sulfuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[2-(4-hydroxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester | 2.09 g | C(C)OC(C1=CC=C(C=C1)C=1N=C2SC(=NN2C1)C1=CC=C(C=C1)O)=O | C19H15N3O3S
